data/specific_train_final.csv
"[H:12][O:11][CH:10]=[C:2]([CH3:1])[CH:3]([CH2:6][O:7][O:8][H:9])[O:4][O:5]>>[H:9][O:8][O:7][CH2:6][CH:3]([C:2]([CH3:1])[CH:10]=[O:11])[O:4][O:5][H:12] 2,10-2;2,10-10,11;11,12-10,11;11,12-5,12;5-5,12",Room Temperature,Propagation,abstraction
"C(C(O[O:20])(Cl)Cl)O.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)([CH2:10])O)C.[O:20][O]>>CC1(C2CCC(C1C2)([CH2:10][O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:12][C:11]([O:14][O:15][H:16])[H:13]>>[H:12][C:11](=[O:14])[H:13].[H:16][O:15] 14,15-15; 14,15-11,14; 11-11,14",Room Temperature,Propagation,retroaddition
"[CH3:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][O:3][O:2][O:1]>>[CH3:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][O:3].[O:1][O:2] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"CCC(=O)C=CC1C(O1)(C)[C:10]=O.[O:20][O]>>CCC(=O)C=CC1C(O1)(C)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CCO[O:20])O.[N:10]=O>>CCC(CCO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:3]([CH2:5][O:6][OH:7])[C:2](=[CH:8][OH:9])[CH3:1].[O:10][O:11]>>[H:4][C:3]([CH2:5][O:6][OH:7])([C:2](=[CH:8][OH:9])[CH3:1])[O:10][O:11] 3-3,10; 10-3,10",Room Temperature,Termination,recombine
"C1=CC2C(C([CH:10]1)[O:20][O:21]2)O>>C1=C[CH:10]2C([O:20]2)C(C1[O:21])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C[C:10]1C=CC2(C(C1(OO2)C)O)C.[O:20][O]>>CC12C=C[C:10](C(C1O)(OO2)C)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CC=O)O[O:20].[N+](=O)([O-])[O:10]>>CCC(CC=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][C:2]([CH:4]([O:13])[C:5]([CH2:7][O:8][N+:9]([O-:11])=[O:10])([OH:12])[CH3:6])([O:14][O:15][H:16])[H:3]>>[H:1][C:2]([H:3])[O:14][O:15][H:16].[CH3:6][C:5]([CH:4]=[O:13])([OH:12])[CH2:7][O:8][N+:9]([O-:11])=[O:10] 13-13,4; 2,4-13,4; 2,4-2",Room Temperature,Propagation,retroaddition
"CC(C(C=O)[O:21][O:20][O])O.[N+](=O)[O-]>>CC(C(C=O)[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3]([H:5])([C:2]([CH3:1])([CH:7]=[CH2:8])[O:9])[Cl:6]>>[H:4][C:3]([H:5])[Cl:6].[CH3:1][C:2](=[O:9])[CH:7]=[CH2:8] 9-9,2; 2,3-3; 2,3-9,2",Room Temperature,Propagation,retroaddition
"C/[C:2]([CH2:1][O:10])=[CH:3]\[CH2:4]O.[O:21]=[N+:20][O-:11]>>C/[C:2]([CH2:1][O:10][N+:20]([O-:11])=[O:21])=[CH:3]\[CH2:4]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1O)OO2)(C)[O:20].[N+:10](=O)[O-]>>CC12C=CC(C(C1O)OO2)(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC1=CC2(C(C(C1O[O:10])(OO2)C)O)CC>>[H:20][O:10]OC1C(=CC2(C(C1(OO2)C)O)CC)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21]/C=C(/C)\C(CO)O[O:10]>>[H:20][O:10]OC(CO)/C(=C\[O:21])/C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]COC.[O:10][O]>>[H:20][O:10][O].COC[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(C)(C(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-])O>>CC(C)(C(COO[O:20])O[N+](=O)[O-])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](C)([O:22])OCC.[OH:10].[O][O]>>[H:20][OH:10].CCO[C:21](=[O:22])C.[O][O] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC1=C(C=C([CH:21]=[CH:20]1)C)O.[H][O:10]>>CCC1=C(C=C([CH:21][CH:20]1[O:10][H])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC(CC)O[O:20].[N:10]=O>>CCCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(C)(C)[O:20][O:21][O]>>CCCCC(C)(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(C(CO[N+](=O)[O-])O[O:10])O>>[H:20][O:10]OC(CO[N+](=O)[O-])C(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC1(CC2C1CCC(C(CCC2=C)O[O:10])(C)O)C>>[H:20][O:10]OC1CCC(=C)C2CC(C2CCC1(C)O)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]CCl.[OH:10]>>[H:20][OH:10].[CH2:21]CCl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[N:10](=O)[O:21]>>[N+:10](=O)[O-:21] 21-10,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].C(C=CCO[O:10])O>>[H:20][O:10]OCC=CCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(OC=O)O[O:20].[N+](=O)([O-])[O:10]>>C(OC=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1O)OO2)(C)[O:21][O:20][O].[N+](=O)[O-]>>CC12C=CC(C(C1O)OO2)(C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)[O:21][O:20][O])(C)O)C.[N+](=O)[O-]>>CC1(CC2C1CCC(C(CCC2=C)[O:21])(C)O)C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
